US06586633B1
Production of trans-N-(6,6-Dimethyl-2-hepten-4-ynyl)-N-methyl-(3-bromobenzyl)amine (Compound 7)
N-(3-bromobenzyl)methylamine (2.00 g; 10.0 mmol) and sodium carbonate (1.51 g; 14.3 mmol) were added to N,N-dimethylformamide (20 ml). While the mixture was stirred at room temperature, 1-bromo-6,6-dimethyl-2-hepten-4-yne (1.92 g; 9.52 mmol) in N,N-dimethylformamide (10 ml) was added dropwise. The mixture was stirred for 1 hour at room temperature, and the reaction was stopped by pouring the mixture into ice/water, followed by extraction with ethyl acetate (100 ml). The organic layer was washed with saturated aqueous sodium bicarbonate solution and with saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=20:1), to thereby yield 1.64 g of the target compound as yellow oily matter (yield: 53.8%).

reactant | N-(3-bromobenzyl)methylamine | 10.0 mmol, 2.00 g | BrC=1C=C(CCN)C=CC1 | C8H10BrN
reactant | sodium carbonate | 14.3 mmol, 1.51 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 1-bromo-6,6-dimethyl-2-hepten-4-yne | 9.52 mmol, 1.92 g | BrCC=CC#CC(C)(C)C | C9H13Br
reactant | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
reactant | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | trans-N-(6,6-Dimethyl-2-hepten-4-ynyl)-N-methyl-(3-bromobenzyl)amine | yield: 53.8% | CC(C#C/C=C/CN(C)CC1=CC(=CC=C1)Br)(C)C | C17H22BrN
